US05589473
To a solution of 23.5 g of 3-hydroxy-5-methoxy -2-methylbenzoic acid methyl ester in 1.3 l of chloroform was added over 1 h at -50° to -60° C. a solution of 19.2 g of bromine in 0.2 l of chloroform. Stirring was continued for 2.5 h at -40° C. and for 2 h at 0° C. The reaction mixture was evaporated in vacuo at 0° C.; the residue was dissolved in a mixture of toluene/ethanol (1:1, v/v) and the solvent was again evaporated in vacuo. This procedure Was repeated twice with toluene/ethanol (1:1, v/v), and finally once with toluene. The residue was chromatographed on silica gel using ethyl acetate as eluent and the pure product was crystallized from ethyl acetate to yield 28 g of 2-bromo-3-methoxy-5-hydroxy-6-methylbenzoic acid methyl ester as white crystals, m.p. 105°-110° C.

reactant | 3-hydroxy-5-methoxy -2-methylbenzoic acid methyl ester | 23.5 g | COC(C1=C(C(=CC(=C1)OC)O)C)=O | C10H12O4
reactant | bromine | 19.2 g | BrBr | Br2
solvent | chloroform | 1.3 l | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.2 l | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-3-methoxy-5-hydroxy-6-methylbenzoic acid methyl ester | 28 g | COC(C1=C(C(=CC(=C1C)O)OC)Br)=O | C10H11BrO4
